US08278324B2
1,1-Dimethylethyl 6-hydroxy-5-methyl-3,4-dihydro-2(1H)-isoquinolinecarboxylate
To a suspension of 5-methyl-1,2,3,4-tetrahydro-6-isoquinolinol (Preparation 13; 163 mg; 1.0 mmol) in dichloromethane (5 ml) at 0° C. was added triethylamine (0.21 ml; 1.50 mmol) followed by bis(1,1-dimethylethyl)dicarbonate (240 mg; 1.10 mmol). The solvent was evaporated and the residue partitioned between ethyl acetate and brine. The aqueous layer was further extracted with ethyl acetate and the combined organic layers were dried (MgSO4) and evaporated to give a yellow oil. Purification by flash chromatography eluting with a gradient of 5-25% ethyl acetate in cyclohexane gave the title compound as a white foam (232 mg).

reactant | 5-methyl-1,2,3,4-tetrahydro-6-isoquinolinol | 1.0 mmol, 163 mg | CC1=C2CCNCC2=CC=C1O | C10H13NO
reactant | triethylamine | 1.50 mmol, 0.21 ml | C(C)N(CC)CC | C6H15N
reactant | bis(1,1-dimethylethyl)dicarbonate | 1.10 mmol, 240 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl 6-hydroxy-5-methyl-3,4-dihydro-2(1H)-isoquinolinecarboxylate | 232 mg | OC=1C(=C2CCN(CC2=CC1)C(=O)OC(C)(C)C)C | C15H21NO3
